US07157454B2
A) Ethyl 2-(N-Boc)amino-3-(4-cyanophenyl)propionate
26 g of Boc2O dissolved in 100 ml of DCM are added gradually to a solution of 25.5 g of ethyl 2-amino-3-(4-cyanophenyl)propionate hydrochloride and 13.9 ml of Et3N in 400 ml of DCM. After stirring for 6 hours at RT, the reaction medium is washed with a KHSO4/K2SO4 solution, with saturated NaHCO3 solution and with saturated NaCl solution. After drying over Na2SO4 and evaporation of the DCM, the residue is triturated in heptane to give 29 g of a white powder.

reactant | Boc2O | 26 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 2-amino-3-(4-cyanophenyl)propionate hydrochloride | 25.5 g | Cl.NC(C(=O)OCC)CC1=CC=C(C=C1)C#N
reactant | Et3N | 13.9 ml | CCN(CC)CC | C6H15N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 400 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(N-Boc)amino-3-(4-cyanophenyl)propionate | 29 g | C(=O)(OC(C)(C)C)NC(C(=O)OCC)CC1=CC=C(C=C1)C#N | C17H22N2O4
